US07449576B1
Synthesis of 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-ethanone
To 38 mg (0.20 mmol) of 1-(2,5-Dimethylphenyl)piperazine and 53 mg (0.22 mmol) of (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid in 1.6 mL of anhydrous dimethylformamide was added 62 mg (0.6 mmol) of triethylamine, followed by 84 mg (0.22 mmol) of O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU). After 6 hours, the reaction was partitioned between ethyl acetate and water, and the phases were separated. The aqueous phase was back-extracted once with ethyl acetate, and the combined ethyl acetate phases were washed once each with 0.5M pH=7 phosphate buffer, water, 1M NaOH, water, brine. The ethyl acetate phase was then dried over Na2SO4, filtered, and concentrated to a residue in vacuo. The residue was dissolved in a minimum volume of 5M HCl in isopropanol, and was precipitated by diluting the solution with ethyl acetate. The product was isolated by filtration to give a white solid: 1H NMR (DMSO-d6, 400 MHz) 7.07 (d 1H), 6.90 (s, 1H), 6.82 (d, 1H), 5.39 (s, 2H), 3.66 (m, 4H), 2.98 (m, 2H), 2.89 (m, 2H), 2.26 (s, 3H), 2.24 (s, 3H), 2.20 (s, 3H) ppm; MS (ES) M+H expected=415.1, found 415.1.

reactant | 1-(2,5-Dimethylphenyl)piperazine | 0.20 mmol, 38 mg | CC1=C(C=C(C=C1)C)N1CCNCC1 | C12H18N2
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | 0.22 mmol, 53 mg | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
reactant | triethylamine | 0.6 mmol, 62 mg | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.22 mmol, 84 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 1.6 mL | CN(C=O)C | C3H7NO
product | 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C1=C(C=CC(=C1)C)C)C(F)(F)F | C19H22ClF3N4O
